US04452792
2-Hydroxyacridine (3.17 grams; 0.015 mole) and acetic acid (100 ml) are charged into a glass reaction vessel equipped with a stirrer and thermometer. The mixture is cooled to 15° C. and a solution of chlorine (0.015 mole) in acetic acid (25 ml) is added dropwise with stirring. After the addition is completed stirring is continued at room temperature overnight. After this time the reaction mixture is filtered to recover product. The product is then washed, dried and dissolved in tetrahydrofuran (50 ml). The solution is treated with triethylamine (2 ml). The treated solution is then filtered and the filtrate treated with activated charcoal. The filtrate is then stripped of solvent in a rotary evaporator to yield chloro-2-hydroxyacridine.

reactant | 2-Hydroxyacridine | 0.015 mole, 3.17 grams | OC1=CC2=CC3=CC=CC=C3N=C2C=C1 | C13H9NO
reactant | chlorine | 0.015 mole | ClCl | Cl2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | chloro-2-hydroxyacridine | ClC1=C(C=CC2=NC3=CC=CC=C3C=C12)O | C13H8ClNO
